US06335342B1
Preparation of N-butyl-3-(1H-pyrrolo[2,3-b]pyridin-3-yl)-2-phenyl-2-propenamide
To a solution of 3-(1H-pyrrolo[2,3-b]pyridin-3-yl)-2-phenyl-2-propenoic acid (100 mg, 0.3784 mmol.) in 2 ml of DMFd were added O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoborate (121.5 mg, 0.3784 mmol.), N-hydroxybenzotriazole (51.1 mg, 0.3784 mmol) and N,N-diisopropylethylamine (129.2 μl, 0.7568 mmol). After stirring at room temperature for 30 min., 34.5 μl (0.3784 mmol.) of n-butylamine were added and the obtained solution was stirred at room temperature, for 24 hours. The resulting mixture was concentrated by evaporation of the solvent in vacuo, the residue was diluted with dichloromethane washed with 1 N NaOH, 1 N HCl, brine, dried over sodium sulphate and evaporated. The residual solid was triturated with Et2O to afford 49 mg of the title compound as a white solid (yield 41%) m.p. 177-179° C. (dec.)

reactant | 3-(1H-pyrrolo[2,3-b]pyridin-3-yl)-2-phenyl-2-propenoic acid | 0.3784 mmol, 100 mg | N1C=C(C=2C1=NC=CC2)C=C(C(=O)O)C2=CC=CC=C2 | C16H12N2O2
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium | 0.3784 mmol, 121.5 mg | N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-hydroxybenzotriazole | 0.3784 mmol, 51.1 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-diisopropylethylamine | 0.7568 mmol, 129.2 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | n-butylamine | 0.3784 mmol, 34.5 μl | C(CCC)N | C4H11N
product | N-butyl-3-(1H-pyrrolo[2,3-b]pyridin-3-yl)-2-phenyl-2-propenamide | 49 mg, yield 41% | C(CCC)NC(C(=CC1=CNC2=NC=CC=C21)C2=CC=CC=C2)=O | C20H21N3O
